US08431563B2
2-Chloro-5-iodopyridine (1.11 g, 4.64 mmol, Sigma-Aldrich, St. Louis, Mo.), 4-bromothiophenol (0.88 g, 4.64 mmol, Sigma-Aldrich, St. Louis, Mo.), copper iodide (44 mg, 0.23 mmol, Strem Chemical Inc, Newburyport, Mass.), potassium carbonate (1.28 g, 9.29 mmol), ethylene glycol (0.52 mL, 9.29 mmol), and iPrOH (10 mL) were added to a reaction vial. The vial was closed, purged with nitrogen for several minutes, and heated at 80° C. for 16 h. After cooling to room temperature, the reaction mixture was diluted with water (10 mL) and extracted with CH2Cl2 (20 mL) and then EtOAc (20 mL). The combined organic extracts were combined and the solvents were removed under reduced pressure. The residue was absorbed onto a plug of silica gel and purified by column chromatography (24 g of silica gel, 0 to 10% EtOAc in hexanes), to provide 5-((4-bromophenyl)sulfanyl)-2-chloropyridine (1.17 g) as white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.41 (d, J=2.54 Hz, 1H), 7.81 (dd, J=2.54, 8.41 Hz, 1H), 7.57-7.61 (m, 2H), 7.54 (d, J=8.41 Hz, 1H), 7.30-7.35 (m, 2H); m/z (ESI, +ve ion) 300.0 (M+H)+.

reactant | 2-Chloro-5-iodopyridine | 4.64 mmol, 1.11 g | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | 4-bromothiophenol | 4.64 mmol, 0.88 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | potassium carbonate | 9.29 mmol, 1.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethylene glycol | 9.29 mmol, 0.52 mL | C(CO)O | C2H6O2
catalyst | copper iodide | 0.23 mmol, 44 mg | [Cu](I)I
solvent | iPrOH | 10 mL | CC(C)O | C3H8O
product | 5-((4-bromophenyl)sulfanyl)-2-chloropyridine | 1.17 g | BrC1=CC=C(C=C1)SC=1C=CC(=NC1)Cl | C11H7BrClNS
